US06187084B1
(iii) Preparation of 3-amino-2-cyanothiocrotonamide
A 3 liter multi-neck flask was equipped with air stirrer, gas inlet, thermometer and condenser. To the flask was charged 2-cyano-3-ethoxythiocrotonamide (68 g, 0.4 mole) and 74 OP ethanol (2 liters). The mixture was then stirred at room temperature. Very little of the solid appeared to dissolve. Ammonia was then bubbled through the reaction mixture. After approximately 15 minutes it became apparent that the starting material was reacting, evidenced by the increased solubility, and after 30 minutes a homogeneous solution resulted. Passage of ammonia through the solution was continued until no more gas was taken up. TLC showed the reaction to be complete, as evidenced by the disappearance of the starting material (silica, eluent 30% ethyl acetate in toluene, Rf product: 0.5, Rf starting material: 0.1).

reactant | 2-cyano-3-ethoxythiocrotonamide | 0.4 mole, 68 g | C(#N)/C(/C(=S)N)=C(\C)/OCC | C7H10N2OS
reactant | ethanol | 2 liters | C(C)O | C2H6O
reactant | ammonia | N | H3N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-amino-2-cyanothiocrotonamide | N\C(=C(/C(=S)N)\C#N)\C | C5H7N3S
